US07935782B2
Synthesis of 5-Vinyl-1,3-dihydro-benzo[c]thiophene 2,2-dioxide, Q20.
Under classical Heck reaction conditions, 5-Bromo-1,3-dihydro-benzo[c]thiophene 2,2-dioxide was transformed with PPh3, Pd(OAc)2, TEA, and vinyltrimethylsilane at 90° C. in DMF. The crude product was extracted with CH2Cl2 and concentrated. Deprotection in CH2Cl2/TFA gave the pure product after purification with flash chromatography (CH2Cl2) in high yields.

reactant | 5-Bromo-1,3-dihydro-benzo[c]thiophene 2,2-dioxide | BrC1=CC2=C(CS(C2)(=O)=O)C=C1 | C8H7BrO2S
reactant | PPh3 | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | vinyltrimethylsilane | C(=C)[Si](C)(C)C | C5H12Si
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-Vinyl-1,3-dihydro-benzo[c]thiophene 2,2-dioxide | C(=C)C1=CC2=C(CS(C2)(=O)=O)C=C1 | C10H10O2S
